US04618607
To 100 ml of benzene are added 9.5 g of 2-(3-methyl piperidino)-1-phenylethanol having a melting point of 70° C., 5 g of diketene and 0.1 ml of triethylamine, and the mixture is refluxed under heating for two hours. The reaction mixture is concentrated under reduced pressure to give 14 g of 2-(3-methylpiperidino)-1-phenylethyl acetoacetate as oily substance. To 150 ml of isopropanol are added 14 g of 2-(3-methylpiperidino)-1-phenylethyl acetoacetate, 6.5 g of m-nitrobenzaldehyde and 5 g of methyl β-aminocrotonate, and the mixture is refluxed under heating for 15 hours. The reaction mixture is concentrated under reduced pressure and the oily residue is dissolved in ethyl acetate. The ethyl acetate layer is washed with 1N-hydrochlroic acid, potassium carbonate and water, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue (25 g) is purified by column chromatography. The eluate is concentrated and the residue is dissolved in acetone, whereupon an ethanol solution of hydrogen chloride is added to crystallize. The precipitated crystals are collected by filtration and recrystallized from ethanol to give 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-methylester-5-[2-(3-methylpiperidino)-1-phenyl]ester in the form of hydrochloride as crystals melting at 225° C.-226° C. (decomposition).

reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | 2-(3-methyl piperidino)-1-phenylethanol | 9.5 g | CC1CN(CCC1)CC(O)C1=CC=CC=C1 | C14H21NO
reactant | diketene | 5 g | C=C1CC(=O)O1 | C4H4O2
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | 2-(3-methylpiperidino)-1-phenylethyl acetoacetate | 14 g | C(CC(=O)C)(=O)OC(CN1CC(CCC1)C)C1=CC=CC=C1 | C18H25NO3
